Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Morphine / 
Lisinopril / mango / papaya
 
Attending: ___
 
Chief Complaint:
Abdominal distension
 
Major Surgical or Invasive Procedure:
Therapeutic Paracentesis (___)
Diagnostic Paracentesis (___)

 
History of Present Illness:
Ms. ___ is a ___ with PMHx notable for HCV (genotype 1a) and
EtOH cirrhosis (child's class B) c/b ascites, varices, and
hepatic
encephalopathy, hx polysubstance abuse, COPD, HTN, and HLD
who presented with abdominal distention. Referred in from PCP
___ ___ when she reported abdominal pain and bloating above
baseline with associated low appetite, dyspnea especially when
laying supine.  She reported worsening in symptoms over past 2
days.  

Of note, Ms. ___ has a recent admission at ___ from ___
with abdominal pain, urinary retention, ___. Discharged off of
diuretics given recurrent ___ with diuretic challenge. Last
paracentesis ___ with 3L removed. Last admission had urinary
retention and was discharged with foley & underwent successful
outpatient voiding trial ___ with Urology.  Since last
paracentesis ___, pt has felt increasing abdominal distension.
Had been planned for outpatient para on ___. Also reports
abdominal distension leading to SOB. She feels uncertain about
what medications she is supposed to be on, due to recent 
changes,
and is currently only taking her "breathing medications", not
taking lactulose or rifaximin. 
  
In the ED, initial VS were:  98.5 88 146/66 18 99% RA 
Exam notable for:  abd tense and distended, mildly tender to
palpation throughout, no ___, alert and oriented, +tremor but no
asterixis 
Labs notable for: Hgb of 10 (up from baseline of ___, plts 86.
INR 1.5. Bicarb 18 (down from 20), Cr .8 (at baseline). Ascites
with TNC of 161 with 2.5kof RBCs. 10% polys. 
Imaging showed:  
RUQUS w/ Doppler:
1. Cirrhotic liver, without evidence of focal lesion.  Main
portal vein is patent with hepatopetal flow. 
2. Moderate volume ascites. 
3. Stable moderate splenomegaly. 

Consults:  Hepatology was onsulted and recommended infectious
workup and admission to ET service. 

Patient received:  Pregabalin, morphine IV, Lactulsoe, 
rifaximin,
simvastatin, fluticasone/salmeterol, and pantoprazole. 
Transfer VS were: 98.5 82 150/81 16 98% RA 
 
On arrival to the floor, patient reports reacummulating ascites
since last discharge.  Her belly is so large that it is causing
her dyspnea and a lot of pain.  Nothing helps her abdominal pain
or chronic pain in general so she stopped taking her lyrica,
Tylenol, and tramadol.  Denies fevers, chills, dysuria, nausea,
vomiting, diarrhea, chest pain, cough.  She has been sober from
EtOH and drugs since ___.  Her goal is to "live to get 
a
liver."  Also stopped tobacco ___. 
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  
 
Past Medical History:
Hepatitis C cirrhosis- genotype 1a decompensated with h/o
ascites; liver biopsy in ___ showed stage ___ fibrosis
Hypertension
Hyperlipidemia
COPD
Alcohol abuse
Depression
Cocaine abuse
Tobacco abuse
Atypical chest pain
Breast pain
Abdominal pain
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy
s/p R inguinal hernia repair 
 
Social History:
___
Family History:
Mom had DM, CAD (COD), and was in a wheelchair for neuropathy.
Father had alcoholism and rectal CA (COD).
Sister has mental illness, also hx of falls. 
Siblings: 1 brother neonatal death, 1 brother death at 3 months, 

1 brother sudden death in ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
VS:  98.1 153 / 80 85 20 99 RA 
GEN: Chronically ill and fatigued female, temoral muscle 
wasting,
alert and oriented  
HEENT: Sclerae anicteric, DMM
___: RRR II/IV SEM, no JVD
RESP: mild increasing WOB, has bibasilar crackles without
wheezing or
rhonchi
ABD: Tense, distended with caput medusa, tender diffusely 
EXT: WWP no ___
NEURO: CN II-XII intact, MAE spontaneously, no asterixis

DISCHARGE PHYSICAL EXAM
======================
VS: ___ 1139 BP: 136/60 RR: 22 O2 sat: 96% Pain Score: ___ 

GEN: Chronically ill and fatigued female, temporal muscle
wasting, alert and oriented  
HEENT: Sclerae anicteric, DMM
___: RRR II/IV SEM, no JVD
RESP: mild increasing WOB, has bibasilar crackles without
wheezing or rhonchi
ABD: Tense, distended with caput medusa, tender diffusely 
EXT: WWP no ___
NEURO: no asterixis 
 
Pertinent Results:
ADMISSION LABS
=============
___ 12:33PM BLOOD WBC-6.2 RBC-3.51* Hgb-10.0* Hct-32.9* 
MCV-94 MCH-28.5 MCHC-30.4* RDW-22.5* RDWSD-76.3* Plt Ct-86*
___ 12:33PM BLOOD Neuts-83.7* Lymphs-8.2* Monos-6.8 
Eos-0.5* Baso-0.3 Im ___ AbsNeut-5.18 AbsLymp-0.51* 
AbsMono-0.42 AbsEos-0.03* AbsBaso-0.02
___ 12:33PM BLOOD ___ PTT-37.5* ___
___ 12:33PM BLOOD Glucose-138* UreaN-13 Creat-0.8 Na-136 
K-4.7 Cl-104 HCO3-18* AnGap-14
___ 12:33PM BLOOD ALT-26 AST-71* AlkPhos-196* TotBili-1.7*
___ 12:33PM BLOOD Albumin-3.6
___ 12:33PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:53PM BLOOD Lactate-2.2*
___ 03:53PM URINE Color-Amber* Appear-Hazy* Sp ___
___ 03:53PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-SM* Urobiln-NEG pH-6.0 Leuks-SM*
___ 03:53PM URINE RBC-3* WBC-9* Bacteri-FEW* Yeast-NONE 
Epi-7
___ 03:53PM URINE bnzodzp-NEG barbitr-NEG opiates-POS* 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 05:30PM ASCITES TNC-161* RBC-2578* Polys-10* Lymphs-20* 
___ Mesothe-2* Macroph-68*
___ 05:30PM ASCITES TotPro-1.2 Glucose-141

MICROBIOLOGY
============
___ 5:30 pm PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary): 

___ 3:53 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 12:33 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

IMAGING
=======
DUPLEX ULTRASOUND ___: 
1. Cirrhotic liver, without evidence of focal lesion.  Main 
portal vein is
patent with hepatopetal flow.
2. Moderate volume ascites.
3. Stable moderate splenomegaly.

DISCHARGE/INTERVAL LABS
======================
___ 07:09AM BLOOD WBC-5.8 RBC-3.32* Hgb-9.4* Hct-31.4* 
MCV-95 MCH-28.3 MCHC-29.9* RDW-22.3* RDWSD-76.0* Plt Ct-70*
___ 07:09AM BLOOD ___ PTT-37.5* ___
___ 07:09AM BLOOD Glucose-135* UreaN-12 Creat-0.7 Na-138 
K-4.4 Cl-105 HCO3-20* AnGap-13
___ 07:09AM BLOOD ALT-22 AST-42* LD(LDH)-249 AlkPhos-190* 
TotBili-1.4
___ 07:09AM BLOOD Calcium-8.7 Phos-3.1 Mg-2.1
 
Brief Hospital Course:
Ms. ___ is a ___ with PMHx notable for HCV (genotype 1a) and 
EtOH cirrhosis (child's class B) c/b ascites, varices, and 
hepatic encephalopathy, hx polysubstance abuse, COPD, HTN, and 
HLD who presented with abdominal distention secondary to 
re-accumulating ascites. 

# Abdominal Distension
# HCV/ETOH Cirrhosis. Childs Class B. Admission MELD 14. 
Decompensated by ascites, varices, HE. No history of SBP or GI 
bleeding. Patient presents with increasing abdominal 
distension/bloating likely secondary to reaccumulating ascites. 
Diuretics were stopped on recent admission given recurrent acute 
kidney injury. Last therapeutic paracentesis prior to this 
admission was on ___ with 3L fluid removed. Diagnostic 
paracentesis in the ED without evidence to suggest SBP. RUQ 
ultrasound without PVT. No obvious GI blood losses with stable 
H/H during hospitalization. Therapeutic paracentesis was 
performed prior to discharge with 6L fluid removed. Diuretics 
were not started given history of recurrent ___ on diuretics. 
She will likely need bi-weekly paracentesis and she has been 
advised to keep her paracentesis appointment on ___. 

TRANSITIONAL ISSUES
====================
[] Labs pending at time of discharge: blood, urine, peritoneal 
cultures
[] Likely needs bi-weekly therapeutic paracentesis. Patient has 
been advised to keep her paracentesis appointment on ___
[] Did not trial diuretics on patient given recurrent ___ in 
past
[] HCV: Not treated, HCV VL 6.1 ___. Will need treatment in 
the future.
[] SBP: No history of SBP, no SBP on diagnostic paracentesis in 
ED.
[] Last EGD ___, 3 cords of small varices were seen in the 
lower esophagus. No history of GI bleeding. Not on home 
naldolol.
[] HE: History of HE in past. Continue home lactulose and 
rifaxmin, titrate 3BMs per day
[] Consider MRI T Spine with contrast to evaluate signal 
abnormality of unclear clinical significance noted on MRI from 
___
[] On prior hospitalizations, has developed acute urinary 
retention in setting of cyclobenzaprine and baclofen use. Should 
avoid using these medications in the future.
[] If persistent mandibular pain, consider dental appointment 
and adjustment of dentures.
#CODE: Full 
#CONTACT: Fiance, ___ (___)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Fluticasone Propionate NASAL 1 SPRY NU BID 
3. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
4. FoLIC Acid 1 mg PO DAILY 
5. Lactulose 30 mL PO TID 
6. Multivitamins W/minerals 1 TAB PO DAILY 
7. Nystatin Oral Suspension 5 mL PO QID 
8. Pantoprazole 40 mg PO Q12H 
9. Rifaximin 550 mg PO BID 
10. Simethicone 40-80 mg PO QID 
11. Simvastatin 20 mg PO QPM 
12. Thiamine 100 mg PO DAILY 
13. Tiotropium Bromide 1 CAP IH DAILY 
14. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
15. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID 
16. HydrOXYzine 25 mg PO BID:PRN itch 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing  
2.  Aspirin 81 mg PO DAILY  
3.  Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID  
4.  Fluticasone Propionate NASAL 1 SPRY NU BID  
5.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
6.  FoLIC Acid 1 mg PO DAILY  
7.  HydrOXYzine 25 mg PO BID:PRN itch  
8.  Lactulose 30 mL PO TID  
9.  Multivitamins W/minerals 1 TAB PO DAILY  
10.  Nystatin Oral Suspension 5 mL PO QID  
11.  Pantoprazole 40 mg PO Q12H  
12.  Rifaximin 550 mg PO BID  
13.  Simethicone 40-80 mg PO QID  
14.  Simvastatin 20 mg PO QPM  
15.  Thiamine 100 mg PO DAILY  
16.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Ascites

SECONDARY DIAGNOSES
====================
Decompensated Hepatitis C/Alcohol Cirrhosis
Volume Overload
Chronic Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after experiencing increasing girth 
in your abdomen. This is likely a result of reaccumulation of 
fluid in your abdomen. Your kidneys have not been able to 
tolerate the medications that prevent this fluid from 
re-accumulating. Your blood, urine, and abdominal fluid were 
tested for infection and thus far we do not have concern for an 
infection.

You will likely require a paracentesis twice per week as you 
move forward. We have drained your abdomen of 6L of fluid and 
your discomfort has improved. It is important that you keep your 
paracentesis appointment on ___. You should also see 
your PCP ___ 5 days.

Please take your medications as prescribed.

It was a pleasure taking care of you!

We wish you the best!

Your ___ Team 
 
Followup Instructions:
___